US06291499B1
4-Benzyl-cyclohexylamine:
A mixture of 2 g of 4-benzylcyclohexanone, the product of Example 1, Step 3, 16 g of ammonium acetate, 100 mL of methanol and 2.5 g of sodium cyanoborohydride was stirred for 5 days at room temperature. After cooling in an ice bath, the reaction was carefully quenched in an efficient fume hood by dropwise addition of 25 mL of 1N HCl. After stirring for 10 min, sodium hydroxide pellets were added to the cold solution until the pH (indicator paper) was about 10. The mixture was concentrated under reduced pressure, diluted with 100 mL of water, made basic by addition of more sodium hydroxide pellets and extracted into 4×100 mL portions of chloroform. After drying over magnesium sulfate, the extracts were concentrated X under reduced pressure and then dried under vacuum overnight. Analysis by TLC (silica gel, elution with 90:10:1 chloroform:methanol:conc. ammonium hydroxide) indicated no 4-benzylcyclohexanone or 4-benzylcyclohexanol was present, only 2 new bands which correspond to a mixture of cis- and trans 4-benzyl-cyclohexylamine, which was an oil.

reactant | 4-benzylcyclohexanone | 2 g | C(C1=CC=CC=C1)C1CCC(CC1)=O | C13H16O
reactant | ammonium acetate | 16 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 2.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 4-Benzyl-cyclohexylamine | C(C1=CC=CC=C1)C1CCC(CC1)N | C13H19N
